US08461164B2
To a solution of N′-(3-cyanopyrazin-2-yl)-N,N-dimethylformamidine (prepared as in Albert and Ohta, J. Chem. Soc. C 1971, 3727-3730, which is expressly incorporated by reference herein; 2.0 g, 11.4 mmol) in ethyl alcohol (EtOH; 50 mL) was added 4-(2-aminoethyl)-phenol (4.7 g, 34 mmol) and acetic acid (3.9 mL, 4.1 g, 68 mmol). The solution was heated to reflux for 19 h, concentrated in vacuo, and the residue was slurried with H2O and suction filtered. The filter cake was washed with H2O and dried in a vacuum oven (80° C., 0.5 torr) to yield 4-[2-(pteridin-4-ylamino)-ethyl]-phenol (2.7 g) as a white solid: mp>210° C.; 1H NMR (DMSO-d6) δ 9.20 (s, 1H), 9.08 (s, 1H), 8.94 (s, 1H), 8.95 (t, J=6.0 Hz, 1H), 8.82 (s, 1H), 8.64 (s, 1H), 7.06 (d, J=8.5 Hz, 2H), 6.69 (d, J=8.2 Hz, 2H), 3.75 (t, J=6.2 Hz, 2H), 2.85 (t, J=7.6 Hz, 2H); ESIMS m/z 268 (M+).

reactant | N′-(3-cyanopyrazin-2-yl)-N,N-dimethylformamidine | C(#N)C=1C(=NC=CN1)N=CN(C)C | C8H9N5
reactant | 4-(2-aminoethyl)-phenol | 34 mmol, 4.7 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | acetic acid | 68 mmol, 3.9 mL, 4.1 g | C(C)(=O)O | C2H4O2
solvent | ethyl alcohol | 50 mL | C(C)O | C2H6O
product | 4-[2-(pteridin-4-ylamino)-ethyl]-phenol | 2.7 g | N1=CN=C(C2=NC=CN=C12)NCCC1=CC=C(C=C1)O | C14H13N5O
